US07858640B2
[8-chloro-3-(4-chlorophenylsulfanyl)-2,4-dimethylquinolin-5-yloxy]acetic Acid Methyl Ester
A mixture of 8-chloro-3-(4-chlorophenylsulfanyl)-2,4-dimethylquinolin-5-ol (0.050 μg), N,N-dimethylformamide (2.0 mL), potassium carbonate (0.059 g) and bromoacetic acid methyl ester (0.031 g) was stirred at room temperature for 15 hours. The mixture was diluted with dichloromethane and this solution was washed with water and then dried over magnesium sulfate. The solvent was removed under reduced pressure to afford title compound as brown solid, 0.11 g.

reactant | 8-chloro-3-(4-chlorophenylsulfanyl)-2,4-dimethylquinolin-5-ol | 0.050 μg | ClC1=CC=C(C=2C(=C(C(=NC12)C)SC1=CC=C(C=C1)Cl)C)O | C17H13Cl2NOS
reactant | N,N-dimethylformamide | 2.0 mL | CN(C=O)C | C3H7NO
reactant | potassium carbonate | 0.059 g | C([O-])([O-])=O.[K+].[K+]
reactant | bromoacetic acid methyl ester | 0.031 g | COC(CBr)=O | C3H5BrO2
solvent | dichloromethane | ClCCl | CH2Cl2
product | [8-chloro-3-(4-chlorophenylsulfanyl)-2,4-dimethylquinolin-5-yloxy]acetic Acid Methyl Ester | COC(COC1=C2C(=C(C(=NC2=C(C=C1)Cl)C)SC1=CC=C(C=C1)Cl)C)=O | C20H17Cl2NO3S
